US07678787B2
Step A. 2′,6′-Dimethyl-1,1′-biphenyl-4-carboxylic acid
A solution of 2′,6′-dimethyl-1,1′-biphenyl-4-carboxylic acid methyl ester (5 g, 20.8 mmol) in tetrahydrofuran (70 mL) was treated dropwise under nitrogen with 1 N lithium hydroxide (45 mL). The mixture was heated at reflux for 8 hours, filtered warm (Celite) and concentrated in vacuo to remove organic solvents. The aqueous residue was acidified in the cold to pH 3 with 2N hydrochloric acid. The precipitate was collected, washed with water ad dried. The residue was dissolved in ethyl acetate, treated with charcoal (with warming), filtered (Celite) and evaporated to yield the title compound as an off-white crystalline solid.

reactant | 2′,6′-dimethyl-1,1′-biphenyl-4-carboxylic acid methyl ester | 20.8 mmol, 5 g | COC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1C)C | C16H16O2
reactant | lithium hydroxide | 1 N, 45 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2′,6′-Dimethyl-1,1′-biphenyl-4-carboxylic acid | CC1=C(C(=CC=C1)C)C1=CC=C(C=C1)C(=O)O | C15H14O2
